US04755511
In a manner similar to that described in Preparation 3, 6-methoxy-1-tetralone was treated with glyoxylic acid monohydrate and hydrazine hydrate to give 5,6-dihydro-8-methoxybenzo[h]cinnolin-3[2H]-one (m.p. 246-8°; from aqueous ethanol); ν(Nujol mull) 3320-2200, 1667, 1601, 1270 and 1048 cm-1 ; δ(DMSO-d6) 2.81 (4H,m,5,6-H2), 3.80 (3H,s,OCH3), 6.71 (1H,s,4-H), 6.90 (2H,m,7,9-H), 7.82 (1H,m,10-H), 12.73 (1H,s,NH).

reactant | 6-methoxy-1-tetralone | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | glyoxylic acid monohydrate | O.C(C=O)(=O)O
reactant | hydrazine hydrate | O.NN
product | 5,6-dihydro-8-methoxybenzo[h]cinnolin-3[2H]-one | COC=1C=CC2=C(CCC3=CC(NN=C23)=O)C1 | C13H12N2O2
